Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2]/[C:3](=[C:7](\[C:4]1([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],76.41466171770826
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5](=[O:6])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:14])[H:15])([H:12])[H:13],83.96101329281801
[O:1]([C@@:2]1([H:8])[C@:3]([O:4][H:10])([H:9])[C@:5]1([O:6][H:12])[H:11])[H:7]>>[C:3]([O:4][H:10])[H:9].[O:1](/[C:2](=[C:5](\[O:6][H:12])[H:11])[H:8])[H:7],49.258706192857396
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])/[N:4]=[C:5](\[O:6][H:10])[H:15])([H:7])[H:9].[H:8][H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],54.8632490281989
[C:4](=[N:5][H:10])([H:8])[H:9].[O:1]([C:6]([C:3]#[N:2])([H:11])[H:12])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],101.37970770958701
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C@@:2]([C:3][H:9])([C:4]([C:5]#[N:6])([H:10])[H:11])[H:8])[H:7],72.892614012754
[O:1](/[C:2](=[N:3]/[C-:4]([N+:5]#[N:6])[H:8])[H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],31.831627558942188
[C:1](/[C:2](=[N:3]\[H:10])[H:9])([O:6][C:5](=[O:4])[H:11])([H:7])[H:8]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],64.97524890993398
[C:1]([C:2]([H:10])([H:11])[H:14])([H:7])([H:8])[H:9].[O:3]=[C:4]1[O:5][C:6]1([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],36.206642520697095
[C:1]([C@@:2]([O:3][H:12])([O+:7]=[C:6]([N:5]([C-:4]([H:13])[H:14])[H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],15.286551582285618
[C:1]([N:2]([C@@:3]1([H:11])[O:4][C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[O:7][H:16])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],67.18586528045779
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:6]([H:14])[C:5]([H:12])([H:13])[O:4]1)([H:8])([H:9])[H:10].[N:3](=[O:7])[H:11],131.265579382011
[O:1]([C:7](=[C:6]=[C:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])[H:9])[H:13])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],63.09064713627182
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:10])[C:5][C:6]1([H:8])[H:14],91.03760772213141
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[O:4][C@:5]1([H:11])[C@@:6]23[H:12]>>[C:1]1([H:8])=[C:2]([H:9])[C:6]2=[C:3]([H:10])[O:4][C@@:5]12[H:11].[H:7][H:12],90.0240493860282
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@:3]1([H:11])[C@@:6]([C:5]([C:4][H:12])([H:13])[H:14])([H:15])[O:7]1)([H:9])[H:10])[H:8],70.6429221308893
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([O-:4])[C+:5]([O:6][H:10])[H:12])[H:11])([H:7])([H:8])[H:9],50.093781774752294
[C@:1]12([H:7])[C@:2]([H:9])([O:3]1)[C:6]([H:12])=[C:5]=[C:4]2[H:10].[H:8][H:11]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],56.70174434686301
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:5]#[O+:6].[C:1]([C:2](=[C:3]=[N:4][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],80.7282216255147
[C:1]([C:3](=[C:2]=[N:6])[H:10])([H:7])([H:8])[H:9].[O:4]=[N:5]>>[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9],58.84099596043399
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:4]=[O:5])[H:10])([H:7])([H:8])[H:9].[C:3]([C:6]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13],98.32122822494291
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:7](=[C:6])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],17.2753505396079
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][N:6]=[C:5]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],74.1676413210643
[C:1](=[O:2])([H:7])[H:9].[C:3](=[O:4])([C:5]#[C:6][H:10])[H:8]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],46.26718946719309
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]=[C:3]=[C:4]([C:5]#[N:6])[H:7],64.5229740559183
